US06313122B1
A. 2-[(4-tert-Butylbenzoyl)amino]-N-(3-benzyloxyphenyl)-5-nitrobenzamide
Using the procedure described in Example 91, Part B, 3-benzyloxyaniline (2.5 mmol) and 2-(4-tert-butylphenyl)-6-nitro-4H-3,1-benzoxazin-4-one (2.8 mmol) yielded 550 mg (42%) of the title compound.

reactant | 3-benzyloxyaniline | 2.5 mmol | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | 2-(4-tert-butylphenyl)-6-nitro-4H-3,1-benzoxazin-4-one | 2.8 mmol | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=C(C=C2)[N+](=O)[O-] | C18H16N2O4
product | 2-[(4-tert-Butylbenzoyl)amino]-N-(3-benzyloxyphenyl)-5-nitrobenzamide | 550 mg, 42% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC(=CC=C3)OCC3=CC=CC=C3)C=C(C=C2)[N+](=O)[O-])C=C1 | C31H29N3O5
